US06624171B1
b) 6-Chloro-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one
A solution of 2.36 g (7.26 mmol) of the mixture of 3,3-dibromo-6-chloro-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one and 3,3,5-tribromo-6-chloro-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one in THF (70 mL) and saturated ammonium chloride solution (70 mL) was treated with 6 g (92 mmol) of powdered zinc. The mixture was stirred for 2 h, and another 6 g (92 mmol) portion of zinc was added. Stirring was continued another 2 h. The zinc was filtered off and washed with ether. The ether phase was separated, and the aqueous phase was extracted twice with a 1:1 mixture of THF/ether. The combined organic extracts were dried over magnesium sulfate, filtered and concentrated. The crude residue was loaded onto 7.5 g of silica gel and chromatographed on silica gel, eluting with a 90% hexane/10% ethyl acetate to 66% hexane/33% ethyl acetate gradient to give 0.647 g of the title compound. 1H NMR (DMSO-d6): δ 3.57 (s, 2H), 7.04 (d, J=7.6 Hz, 1H), 7.61 (d, J=7.6 Hz, 1H), 11.2 (bs, 1H).

reactant | 3,3-dibromo-6-chloro-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | BrC1(C(NC2=NC(=CC=C21)Cl)=O)Br | C7H3Br2ClN2O
reactant | 3,3,5-tribromo-6-chloro-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | BrC1(C(NC2=NC(=C(C=C21)Br)Cl)=O)Br | C7H2Br3ClN2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 70 mL | [Cl-].[NH4+]
catalyst | zinc | 92 mmol, 6 g | [Zn] | Zn
product | 6-Chloro-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | 0.647 g | ClC1=CC=C2C(=N1)NC(C2)=O | C7H5ClN2O
